US04374137
4-(2-Fluorobenzyl)-2-methyl-1,2,3,4-tetrahydro-4-isoquinolinol hydrochloride
To a suspension of magnesium shavings (3.96 g) and a crystal of iodine in anhydrous ether (50 ml) is added several milliliters of 2-fluorobenzyl chloride. After initiation of the reaction with a hot air gun, the remainder of the 2-fluorobenzyl chloride for a total of 27.2 g is added dropwise as a solution in ether (50 ml). After the addition is complete, the reaction mixture is refluxed for 2 hours. A solution of 2-methyl-2,3-dihydro-4(1H)-isoquinolone (24.2 g) in ether (100 ml) is added dropwise at room temperature. The granular precipitate which forms is stirred at room temperature for one hour, filtered and washed with ether. The solid is hydrolyzed by stirring at room temperature for one hour with an ammonium chloride solution, followed by ether extraction. The ether extract is washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Removal of the ether yields 28.6 g of an oil. A portion of the oil (5 g) is dissolved in ether, filtered, and ethereal hydrogen chloride is added to give product as a white powder (5.5 g, 97%), mp 105°.

reactant | magnesium | 3.96 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-fluorobenzyl chloride | several milliliters | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | 2-methyl-2,3-dihydro-4(1H)-isoquinolone | 24.2 g | CN1CC2=CC=CC=C2C(C1)=O | C10H11NO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-(2-Fluorobenzyl)-2-methyl-1,2,3,4-tetrahydro-4-isoquinolinol hydrochloride | 28.6 g | Cl.FC1=C(CC2(CN(CC3=CC=CC=C23)C)O)C=CC=C1 | InChI=1S/C17H18FNO.ClH/c1-19-11-14-7-2-4-8-15(14)17(20,12-19)10-13-6-3-5-9-16(13)18;/h2-9,20H,10-12H2,1H3;1H
